US07396844B1
Synthesis of methyl (2S)-2-(t-butoxycarbonylamino)-3-(4-hydroxyphenyl)propionate
15.2 g (65.6 mmol) of hydrochloride of methyl ester of L-tyrosine was dissolved in 200 ml of dichloromethane. A solution of 20 ml (143 mmol) of triethylamine and 13.1 g (60.0 mmol) of di-t-butyl dicarbonate in 50 ml of dichloromethane was added to the solution, and they were stirred for 15 hours. After the treatment with dichloromethane as the extractant in an ordinary manner, the oily residue was obtained. This residue was subjected to the subsequent reaction without the purification.

reactant | hydrochloride | 65.6 mmol, 15.2 g | Cl | ClH
reactant | L-tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | triethylamine | 143 mmol, 20 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 60.0 mmol, 13.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | methyl (2S)-2-(t-butoxycarbonylamino)-3-(4-hydroxyphenyl)propionate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)O | C15H21NO5
